US05811424
Synthesis of 2-(4-cyanophenoxy)-1,1-dimethylethylamine
4.0 g of 60% sodium hydride was added to a solution containing 8.9 g of 2-amino-2-methyl-1-propanol dissolved in 100 ml of N,N-dimethylformamide in an ice bath. After the reaction mixture was stirred for 30 minutes at room temperature, 13.7 g of 4-chlorobenzonitrile was added to the reaction mixture and the reaction mixture was stirred for 15 hours at room temperature. The reaction mixture was poured into water. The organic layer of the reaction mixture was extracted with ethyl acetate, washed with water, and then dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure. The fraction possessing a low boiling point was removed from the residue, thus obtaining 15 g of the desired product (yield: 79%).

reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | 2-amino-2-methyl-1-propanol | 8.9 g | NC(CO)(C)C | C4H11NO
reactant | 4-chlorobenzonitrile | 13.7 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(4-cyanophenoxy)-1,1-dimethylethylamine | 15 g, yield: 79% | C(#N)C1=CC=C(OCC(C)(C)N)C=C1 | C11H14N2O
